US07338959B2
2-Chloro-5-{4-[(2-isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide
The title compound was prepared following the procedure of example 1 with N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine (83 mg, 0.25 mmol) and 5-amino-2-chloro-benzenesulfonamide (52 mg, 0.25 mmol) as a white solid (74 mg, 59%). 1H NMR (300 MHz, d6-DMSO) δ 9.58 (s, 1H), 8.78 (s, 1H), 7.83 (dd, J=8.7 and 2.1 Hz, 1H), 7.78 (d, J=5.7 Hz, 1H), 7.55 (br s, 1H), 7.40 (d, J=8.7 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 7.08 (s, 12H), 6.80 (d, J=8.1 Hz, 1H), 6.61 (d, J=7.5 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.04 (m, 1H), 3.52 (s, 3H), 3.45 (s, 3H), 1.23 (d, J=6.3 Hz, 6H) ppm. MS (ESI) m/z=501 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2-isopropyl-N5,1-dimethyl-1H-benzimidazole-2,5-diamine | 0.25 mmol, 83 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)C | C16H19ClN6
reactant | 5-amino-2-chloro-benzenesulfonamide | 0.25 mmol, 52 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)Cl | C6H7ClN2O2S
product | 2-Chloro-5-{4-[(2-isopropylamino-1-methyl-1H-benzoimidazol-5-yl)-methyl-amino]-pyrimidin-2-ylamino}-benzenesulfonamide | ClC1=C(C=C(C=C1)NC1=NC=CC(=N1)N(C)C1=CC2=C(N(C(=N2)NC(C)C)C)C=C1)S(=O)(=O)N | C22H25ClN8O2S
